US07569600B2
To a solution of 5-Cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-(4-oxo-cyclohexyl)-amino]-thiophene-2-carboxylic acid (0.055 g, 0.12 mmol) in 1 ml of H2O/EtOH (2:1) was added ethoxyamine hydrochloride (0.024 g, 0.24 mmol) and sodium acetate (0.032 g, 0.24 mmol). The reaction mixture was stirred at room temperature for 24 h and treated with water. The aqueous layer was extracted with CH2Cl2 (3×) and the organic layer was dried with sodium sulfate, filtered and concentrated under reduce pressure. The residue was purified by HPLC to obtain 5-cyclohex-1-enyl-3-[(4-ethyoxyimino-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid (0.015 g, 26%).

reactant | 5-Cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-(4-oxo-cyclohexyl)-amino]-thiophene-2-carboxylic acid | 0.12 mmol, 0.055 g | C1(=CCCCC1)C1=CC(=C(S1)C(=O)O)N(C1CCC(CC1)=O)C(=O)[C@@H]1CC[C@H](CC1)C | C25H33NO4S
reactant | ethoxyamine hydrochloride | 0.24 mmol, 0.024 g | Cl.C(C)ON
reactant | sodium acetate | 0.24 mmol, 0.032 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | H2O EtOH | 1 ml | O.CCO
product | 5-cyclohex-1-enyl-3-[(4-ethyoxyimino-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid | 0.015 g, 26% | C1(=CCCCC1)C1=CC(=C(S1)C(=O)O)N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCC(CC1)=NOCC | C27H38N2O4S
